US09376441B2
Preparation of (R)-4-(((3-cyclopropyl-6-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)methyl)pyrrolidin-2-one:
(R)-4-(((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)methyl)pyrrolidin-2-one (50 mg, 0.14 mmol), 1-(oxetan-3-yl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine (63.28 mg, 0.18 mmol), Cesium Carbonate (137.18 mg, 0.42 mmol), & PEPPSI″-IPr catalyst (20 mg, 0.03 mmol) were taken up in dioxane (4 ml) and water (1 mL) and heated in a sealed tube at 100° C. for 45 minutes. Reaction was then chromatographed in silica gel 0-30% DCM/MeOH providing 94 mg of (R)-4-(((3-cyclopropyl-6-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)methyl)pyrrolidin-2-one. (68 mg, 84%) as a yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 8.25 (s, 1H), 8.01-7.91 (m, 2H), 7.71-7.57 (m, 2H), 7.05-6.95 (m, 2H), 5.82-5.64 (m, 2H), 4.63-4.34 (m, 6H), 3.69 (td, J=7.0, 3.5 Hz, 1H), 3.55-3.34 (m, 2H), 3.37-3.12 (m, 9H), 2.98 (p, J=7.9 Hz, 1H), 2.50-2.32 (m, 6H), 2.20 (dd, J=16.7, 7.0 Hz, 1H), 1.27-0.97 (m, 6H). ESI MS m/z 489 [M+H]+; HPLC, 1.24 min, 97.5% (AUC).

reactant | (R)-4-(((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)methyl)pyrrolidin-2-one | 0.14 mmol, 50 mg | BrC1=CC2=C(C(=N1)OC[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C14H15BrN4O2
reactant | 1-(oxetan-3-yl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine | 0.18 mmol, 63.28 mg | O1CC(C1)N1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN2O3
reactant | Cesium Carbonate | 0.42 mmol, 137.18 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 1 mL | O | H2O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (R)-4-(((3-cyclopropyl-6-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)methyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CCN(CC2)C2COC2)OC[C@@H]2CC(NC2)=O | C27H32N6O3
